US07635698B2
Trans-3-[4-(4-Chloro-phenyl)-[1,4]diazepan-1-yl]-4-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester
To a solution of 1-(4-Chloro-phenyl)-[1,4]diazepane (1.00 g, 4.80 mmol) in acetonitrile (10 mL) was added 6-Oxa-3-aza-bicyclo[3.1.0]hexane-3-carboxylic acid tert-butyl ester (0.925 g, 5.00 mmol) and Calcium(II) trifluoromethanesulfonate (0.676 g, 2.00 mmol). The solution was stirred at 80° C. for 17 hours under nitrogen atmosphere. The reaction was concentrated in vacuo. The residue was diluted with saturated aqueous sodium bicarbonate (50 mL) and extracted with ethyl acetate (3×30 mL). The combined organics were washed with brine, dried over MgSO4, and evaporated. The residue was purified by silica gel chromatography (ethyl acetate→87:10:3 ethyl acetate:methanol:triethylamine) to yield 0.819 g (41%) of the title compound. ESI-MS m/z: 396 (M+1), FAS method rt: 1.25 min.

reactant | 1-(4-Chloro-phenyl)-[1,4]diazepane | 4.80 mmol, 1.00 g | ClC1=CC=C(C=C1)N1CCNCCC1 | C11H15ClN2
reactant | 6-Oxa-3-aza-bicyclo[3.1.0]hexane-3-carboxylic acid tert-butyl ester | 5.00 mmol, 0.925 g | C(C)(C)(C)OC(=O)N1CC2OC2C1 | C9H15NO3
reactant | Calcium(II) trifluoromethanesulfonate | 2.00 mmol, 0.676 g | FC(S(=O)(=O)[O-])(F)F.[Ca+2].FC(S(=O)(=O)[O-])(F)F
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | Trans-3-[4-(4-Chloro-phenyl)-[1,4]diazepan-1-yl]-4-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.819 g, 41% | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)O)N1CCN(CCC1)C1=CC=C(C=C1)Cl | C20H30ClN3O3
